US09315495B2
According to the method of Douglas and Money (see: Can. J. Chem. 1968, 46, 695), 4-hydroxy-6-ethyl-2-pyrone (see: Hsung, et. al. Synthesis 2007, 749; 1.24 g, 8.85 mmol) was dissolved in trifluoroacetic acid (4 mL) in a pressure-safe vessel. Butyryl chloride (1.0 mL, 9.73 mmol) was added and the solution flushed with argon. The vessel was sealed and stirred in a 90° C. heating bath overnight. After cooling to room temperature, the solution was poured onto powdered sodium bicarbonate (9 g) before water (80 mL) was added carefully. Organics were extracted from the aqueous slurry with dichloromethane (3×80 mL), dried with magnesium sulfate, filtered, and concentrated. The crude product was purified by chromatography on silica gel with gradient elution (10→20% ether in hexanes) to afford 3-butyryl-6-ethyl-4-hydroxy-2-pyrone (1.20 g, 65%) as an oily solid. Used without further characterization.

reactant | 4-hydroxy-6-ethyl-2-pyrone | 8.85 mmol, 1.24 g | OC1=CC(OC(=C1)CC)=O | C7H8O3
reactant | Butyryl chloride | 9.73 mmol, 1.0 mL | C(CCC)(=O)Cl | C4H7ClO
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-butyryl-6-ethyl-4-hydroxy-2-pyrone | 1.20 g, 65% | C(CCC)(=O)C=1C(OC(=CC1O)CC)=O | C11H14O4
